US03940422
To a mixture of 20 ml of dry dioxane and 0.7 g of dry pyridine were added 2 g of 3,4-dimethoxycinnamic acid, 1.6 g of phosphorus oxychloride and 1.6 g of methyl anthranilate. The mixture was heated under reflux for 2 hours to effect reaction. After completion of the reaction, the reaction mixture was concentrated and the residue was dissolved with heating in ethanol and then cooled whereby crystals were precipitated. The crystals were separated by filtration and treated in a manner similar to that described in Example 5 to effect hydrolysis of the ester group. The product was recrystallized from chloroform to obtain 2 g of N-(3',4'-dimethoxycinnamoyl)-anthranilic acid having a melting point of 211°-213°C.

reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | 3,4-dimethoxycinnamic acid | 2 g | COC=1C=C(C=CC(=O)O)C=CC1OC | C11H12O4
reactant | phosphorus oxychloride | 1.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | methyl anthranilate | 1.6 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
solvent | pyridine | 0.7 g | N1=CC=CC=C1 | C5H5N
product | N-(3',4'-dimethoxycinnamoyl)-anthranilic acid | 2 g | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=CC2)C=CC1OC | C18H17NO5
